US05149840
Several methods of preparation of these compounds involving a pentose or a 6-deoxyhexose are known: U.S. Pat. No. 2,936,308 (Hodge) discloses the reaction of L-rhamnose and piperidine acetate at 75°C. for 18 hours in ethanol and a 26% yield of 2,5-dimethyl-4-hydroxy-2,3-dihydrofuran-3-one was obtained according to Example 2. Although the desired compound was formed in a reasonable yield, it was contaminated with a nitrogen-containing by-product (2,5-dimethyl-4-piperidino-2,3-dihydrofuran3one), which was difficult to remove. The same preparation is disclosed in GB 1,132,600. GB 1,238,942 discloses the reaction between a pentose or 6-deoxy-aldohexose with a dialkylamine to a glycosylamine which further reacts with acid to form the desired compounds. Before isolating the product from the reaction mixture the solvent is removed by distillation under reduced pressure at a temperature below 35° C. The product is then isolated through extraction with an organic solvent followed by purification through column chromatography.

reactant | pentose | C(C(C(C(C=O)O)O)O)O | C5H10O5
reactant | 6-deoxyhexose | CC(C(C(C(C=O)O)O)O)O | C6H12O5
reactant | L-rhamnose | O=C[C@H](O)[C@H](O)[C@@H](O)[C@@H](O)C | C6H12O5
reactant | piperidine acetate | C(C)(=O)O.N1CCCCC1
solvent | ethanol | C(C)O | C2H6O
product | 2,5-dimethyl-4-hydroxy-2,3-dihydrofuran-3-one | 26% yield | CC1OC(=C(C1=O)O)C | C6H8O3
